US04550105
Under stirring at 0° C., 173 g of cis-1-(2,4-dimethoxybenzyl)-4-hydroxymethyl-3-phenylacetamido-2-oxoazetidine is added to a solution of 1.12 g of p-toluenesulfonyl chloride in 6 ml of pyridine. The reaction mixture is stirred for 2 hours and then allowed to stand overnight in a refrigerator. To the reaction mixture is added 0.68 ml of lactic acid and the mixture is stirred for one hour. The reaction mixture is diluted with 45 ml of ethyl acetate and 15 ml of tetrahydrofuran, and then washed with dilute hydrochloric acid, and aqueous sodium chloride solution, an aqueous sodium hydrogen carbonate solution and an aqueous sodium chloride solution in this order. The organic solution is dried over magnesium sulfate and the solvent is distilled off in vacuo. To the residue is added a mixed solvent of ether and ethyl acetate (5:1) and the resulting crystals are collected by filtration to give 2.21 g (91%) of cis-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-4-(p-toluenesulfonyloxymethyl)-2-oxoazetidine, m.p. 109°-110° C.

reactant | cis-1-(2,4-dimethoxybenzyl)-4-hydroxymethyl-3-phenylacetamido-2-oxoazetidine | 173 g | COC1=C(CN2C([C@H]([C@H]2CO)NC(CC2=CC=CC=C2)=O)=O)C=CC(=C1)OC | C21H24N2O5
reactant | p-toluenesulfonyl chloride | 1.12 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | lactic acid | 0.68 ml | C(C(O)C)(=O)O | C3H6O3
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 45 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | cis-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-4-(p-toluenesulfonyloxymethyl)-2-oxoazetidine | 2.21 g, 91% | COC1=C(CN2C([C@H]([C@H]2COS(=O)(=O)C2=CC=C(C=C2)C)NC(CC2=CC=CC=C2)=O)=O)C=CC(=C1)OC | C28H30N2O7S
